US08835644B2
Method C with benzyl 2-hydroxybenzoate (1.05 mL, 5.2 mmol) and tert-butyl 2-bromoacetate (in place of Boc-aminoethylbromide) afforded benzyl 2-(2-tert-butoxy-2-oxoethoxy)benzoate (1.82 g, 98%) as a amber oil. 1H NMR (300 MHz, DMSO-d6) δ 7.69 (dd, J=7.6, 1.3 Hz, 1H), 7.65-7.42 (m, 3H), 7.42-7.19 (m, 3H), 7.13-6.97 (m, 2H), 5.31 (s, 2H), 4.76 (s, 2H), 1.40 (s, 9H); 13C NMR (75 MHz, DMSO-d6) δ 167.4, 165.4, 156.7, 136.2, 133.3, 130.7, 128.4, 127.9, 127.7, 120.8, 120.5, 113.5, 81.5, 65.9, 65.5, 27.6; HRMS (ESI) calcd for [C20H22O5+Na]+ 365.1359. found 365.1367. To a solution of anhydrous THF (42 mL) and 10% Pd/C (0.15 g) was charged benzyl 2-(2-tert-butoxy-2-oxoethoxy)benzoate (1.56 g, 4.29 mmol). Air was removed from the system and the reaction was back flushed with hydrogen. This process was repeated three times before setting the reaction under a hydrogen balloon at atmospheric pressure and temperature for 22 h. After that time the reaction was filtered through a Celite® pad and the filter cake was washed with THF (20 mL). The filtrate was concentrated under reduced pressure to afford 2-(2-tert-butoxy-2-oxoethoxy)benzoic acid (1.14 g, 99%) as a tan amorphous solid. 1H NMR (300 MHz, DMSO-d6) δ 12.61 (bs, 1H), 7.67 (dd, J=7.6, 1.5 Hz, 1H), 7.56-7.40 (m, 1H), 7.11-6.92 (m, 2H), 4.74 (s, 2H), 1.41 (s, 9H); 13C NMR (75 MHz, DMSO-d6) δ 167.6, 167.1, 156.5, 132.8, 130.8, 121.6, 120.8, 113.5, 81.5, 65.6, 27.7; HRMS (ESI) calcd for [C13H16O5+Na]+ 275.0890. found 275.0898. Method B with 2-(2-tert-butoxy-2-oxoethoxy)benzoic acid (200 mg, 0.79 mmol) afforded tert-butyl 2-(2-(5-nitrothiazol-2-ylcarbamoyl)phenoxy)acetate (VPC162035) (178 mg, 59%) as a light yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 12.71 (s, 1H), 8.71 (s, 1H), 7.83 (dd, J=7.7, 1.5 Hz, 1H), 7.69-7.54 (m, 1H), 7.26-7.10 (m, 2H), 4.89 (s, 2H), 1.44 (s, 9H); 13C NMR (75 MHz, DMSO-d6) δ 167.6, 165.0, 161.3, 155.7, 142.7, 142.1, 134.4, 130.8, 121.7, 120.4, 113.6, 82.1, 66.0, 27.7; HRMS (ESI) calcd for [C16H17N3O6S+H]+ 380.0911. found 380.0936. Method D with tert-butyl 2-(2-(5-nitrothiazol-2-ylcarbamoyl)phenoxy)acetate (100 mg, 0.26 mmol) afforded 2-(2-(5-nitrothiazol-2-ylcarbamoyl)phenoxy)acetic acid (VPC162042) (78 mg, 92%) as a beige solid. 1H NMR (300 MHz, DMSO-d6) δ 12.93 (bs, 2H), 8.67 (s, 1H), 7.87 (dd, J=7.7, 1.7 Hz, 1H), 7.72-7.57 (m, 1H), 7.24 (d, J=8.5 Hz, 1H), 7.18 (t, J=7.6 Hz, 1H), 4.94 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ 170.5, 164.8, 161.4, 156.1, 142.8, 142.2, 134.7, 131.1, 121.9, 120.2, 114.2, 66.1; HRMS (ESI) calcd for [C12H9N3O6S+H]+ 324.0285. found 324.0298. EDC (30 mg, 0.15 mmol), catalytic DMAP, Boc-ethanolamine (14 μL, 0.09 mmol) and 2-(2-(5-nitrothiazol-2-ylcarbamoyl)phenoxy)acetic acid (25 mg, 0.08 mmol) were dissolved in THF (1 mL) and stirred at ambient temperature for 21 hours. Once judged complete by TLC analysis, the resulting suspension was diluted with EtOAc (30 mL) and washed with sat. NaHCO3 (3×20 mL), 0.5M HCl (3×20 mL) and brine (2×20 mL) then dried (MgSO4) followed by filtration and evaporation to dryness. The resulting residue was purified by flash column chromatography (10-70% EtOAc/hexanes) to obtain 2-(tert-butoxycarbonylamino)ethyl 2-(2-(5-nitrothiazol-2-ylcarbamoyl)phenoxy)acetate (33 mg, 92%) as a beige solid. 1H NMR (300 MHz, DMSO-d6) δ 12.69 (s, 1H), 8.71 (s, 1H), 7.87 (dd, J=7.7, 1.6 Hz, 1H), 7.69-7.57 (m, 1H), 7.25 (d, J=8.4 Hz, 1H), 7.19 (t, J=7.5 Hz, 1H), 6.97 (t, J=5.6 Hz, 1H), 4.98 (s, 2H), 4.19 (t, J=5.5 Hz, 2H), 3.21 (q, J=5.5 Hz, 2H), 1.35 (s, 9H); 13C NMR (75 MHz, DMSO-d6) δ 168.4, 164.8, 161.3, 155.8, 142.79, 142.2, 134.6, 131.0, 121.8, 120.1, 113.8, 77.9, 65.9, 64.0, 38.8, 28.2; HRMS (ESI) calcd for [C19H22N4O8S+H]+ 467.1231. found 467.1241. Method E with 2-(tert-butoxycarbonylamino)ethyl 2-(2-(5-nitrothiazol-2-ylcarbamoyl)phenoxy)acetate (24 mg, 0.05 mmol) afforded the title compound VPC162082 (19 mg, 93%) as a beige solid. 1H NMR (300 MHz, DMSO-d6) δ 12.69 (s, 1H), 8.73 (s, 1H), 8.11 (s, 3H), 7.87 (dd, J=7.7, 1.5 Hz, 1H), 7.65 (t, J=7.0 Hz, 1H), 7.28 (d, J=8.4 Hz, 1H), 7.20 (t, J=7.5 Hz, 1H), 5.04 (s, 2H), 4.41 (t, J=5.1 Hz, 2H), 3.15 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ 168.3, 164.8, 161.3, 155.7, 142.8, 142.1, 134.6, 131.0, 121.9, 120.1, 113.8, 65.9, 61.4, 37.9; HRMS (ESI) calcd for [C14H14N4O6S+Na]+ 389.0526. found 389.0535.

reactant | benzyl 2-(2-tert-butoxy-2-oxoethoxy)benzoate | 4.29 mmol, 1.56 g | C(C)(C)(C)OC(COC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1)=O | C20H22O5
catalyst | Pd/C | 0.15 g | [Pd] | Pd
solvent | THF | 42 mL | C1CCOC1 | C4H8O
product | 2-(2-tert-butoxy-2-oxoethoxy)benzoic acid | 1.14 g, 99% | C(C)(C)(C)OC(COC1=C(C(=O)O)C=CC=C1)=O | C13H16O5
